US06593330B2
2-[(2,5-Dimethoxybenzyl)oxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[(2,5-dimethoxybenzyl)oxy]pyrazine (1.02 g, 3.63 mmol; obtained according to the procedure of example 50, step 1, starting from 2,5-dimethoxybenzyl alcohol), piperazine (0.94 g, 10.9 mmol) and K2CO3 (0.50 g, 3.63 mmol). The yield of the title compound was 0.64 g (53%) which was obtained as a beige solid. Purity 100% (HPLC). MS m/z 331 (M+H)+. HRMS m/z calcd for C17H22N4O3 (M)+ 330.1692, found 330.1692.

reactant | 2-chloro-6-[(2,5-dimethoxybenzyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=C(C=CC(=C1)OC)OC | C13H13ClN2O3
reactant | 2,5-dimethoxybenzyl alcohol | COC1=C(CO)C=C(C=C1)OC | C9H12O3
reactant | piperazine | 10.9 mmol, 0.94 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 3.63 mmol, 0.50 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-[(2,5-Dimethoxybenzyl)oxy]-6-(1-piperazinyl)pyrazine | COC1=C(COC2=NC(=CN=C2)N2CCNCC2)C=C(C=C1)OC | C17H22N4O3
